US07141561B2
3-(4-Benzyloxyphenyl)-1-(2,2-dimethoxyethyl)-1-(4-phenoxyphenyl)urea
A solution of 4-benzyloxyaniline (199 mg) in dimethylformamide (1 ml) was added dropwise to a solution of carbonyldiimidazole (162 mg) in dimethylformamide (1 ml) at 0° C. After a reaction time at 0° C. of 10 minutes, the reaction was allowed to continue at room temperature for 20 minutes. Then (2,2-dimethoxyethyl)-(4-phenoxyphenyl)amine (273 mg) was added, and the mixture was heated at 80° C. for 1.5 hours. Cooling was followed by dilution with water and extraction with ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated. The product with the molecular weight of 498.58 (C30H30N2O5); MS (ESI): 499 ([M+H]+), was obtained in this way.

reactant | 4-benzyloxyaniline | 199 mg | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | carbonyldiimidazole | 162 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (2,2-dimethoxyethyl)-(4-phenoxyphenyl)amine | 273 mg | COC(CNC1=CC=C(C=C1)OC1=CC=CC=C1)OC | C16H19NO3
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-(4-Benzyloxyphenyl)-1-(2,2-dimethoxyethyl)-1-(4-phenoxyphenyl)urea | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(N(C1=CC=C(C=C1)OC1=CC=CC=C1)CC(OC)OC)=O | C30H30N2O5
